* C:\Users\nihar\OneDrive\Documents\LTspice\Single phase dc-ac converter.asc
V1 N001 0 300
S1 N002 N001 S14 0 SW
S2 0 N002 S23 0 SW
S3 N004 N001 S23 0 SW
S4 0 N004 S14 0 SW
L1 N003 N002 1600µ Ipk=200m
C1 N003 N004 250µ V=100m
R1 N003 N004 50
V2 control 0 SINE(5 5 60)
V3 carrier 0 PULSE(0 10 0 {0.5/fs} {0.5/fs} 0ms {1/fs})
B1 S14 0 v=if(v(control)>=v(carrier),10,0)
B2 S23 0 v=if(v(control)<v(carrier),10,0)
.param fs=10000
.model sw sw(ron=1m roff=1meg vt=5)
.tran 500ms
.backanno
.end
